US08389720B2
tert-butyl 4-(2-amino-1-phenylethyl)piperidine-1-carboxylate
tert-butyl 4-[cyano(phenyl)methylene]piperidine-1-carboxylate (1.18 g, 3.95 mmol) in ethanol (15 ml) was saturated with NH3 at ambient temperature and Raney nickel (1 ml, 3.95 mmol) in water was added. The reaction was placed on a Parr reactor under H2 pressure (48 psi) for 19 hours. The reaction mixture was then re-saturated with NH3 and additional Raney nickel (1 ml, 3.95 mmol) was added before placing back on the Parr reactor for an additional 5.5 hours. The reaction mixture was filtered through Celite, washing with EtOH, and concentrated in vacuo. The product was carried on without further purification.

reactant | tert-butyl 4-[cyano(phenyl)methylene]piperidine-1-carboxylate | 3.95 mmol, 1.18 g | C(#N)C(=C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H22N2O2
reactant | NH3 | N | H3N
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3.95 mmol, 1 ml | [Ni] | Ni
solvent | water | O | H2O
catalyst | Raney nickel | 3.95 mmol, 1 ml | [Ni] | Ni
product | tert-butyl 4-(2-amino-1-phenylethyl)piperidine-1-carboxylate | NCC(C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O2
